US04769387
N-hydroxy-N-(1-dibenzofur-3-ylethyl)urea
Trimethylsilyl isocyanate (1.2 mL) was added to a solution of 1-(3-dibenzofuranyl)ethyl hydroxylamine (0.88 g, 3.87 mmole), prepared as described in example 1, step c, in THF (6 mL). The mixture was heated at 60° C. for one hour and then poured into saturated NH4Cl solution. This was extracted with ethyl acetate (3×100 mL). The organic layer was concentrated in vacuo and the residue was triturated with ether to give the desired product as a white solid (0.84 g, 80%). (R1 =NH2, A=CHCH3 --, X=0, Y=H)

reactant | Trimethylsilyl isocyanate | 1.2 mL | C[Si](C)(C)N=C=O | C4H9NOSi
reactant | 1-(3-dibenzofuranyl)ethyl hydroxylamine | 3.87 mmole, 0.88 g | C1=CC(=CC=2OC3=C(C21)C=CC=C3)C(C)NO | C14H13NO2
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | N-hydroxy-N-(1-dibenzofur-3-ylethyl)urea | 0.84 g, 80% | ON(C(=O)N)C(C)C=1C=CC2=C(OC3=C2C=CC=C3)C1 | C15H14N2O3
